US07723329B2
To 5-(2-azido-ethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole (1.34 g, 3.41 mmol) in hot ethanol (210 mL) was added 10% palladium on carbon (0.8 g). The reaction mixture was hydrogenated on the Parr apparatus for 1.25 hours, starting pressure 49 psi. It was then filtered over Celite and concentrated. The residue was purified by flash chromatography with 0.5% ammonium hydroxide/5.0% methanol in chloroform. Drying in vacuo at 63° C. for 20 minutes gave 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethylamine as a light yellow foam resulted (0.775 g, 57.0%). Methanol and ethereal hydrochloride were added. Drying in vacuo for 16 hours 68° C. yielded the hydrochloride as a yellow foam (0.825 g). Mass spectrum (−EI, [M−H]−) m/z 366. 1HNMR (500 MHz, DMSO-d6): δ14.22 (s, 1H), 8.75 (d, 1H, J=8.66 Hz), 8.51-8.53 (m, 1H), 8.27 (d, 1H, J=8.29 Hz), 8.10 (s, br, 3H), 8.03-8.05 (m, 1H), 7.71-7.75 (m, 1H), 7.56-7.65 (m, 3H), 7.33 (d, 1H, J=2.19 Hz), 7.13-7.16 (m, 1H), 4.21 (t, 2H, J=5.00 Hz), 3.23 ppm (s, 2H). Elemental Analysis for C19H17N3O3S.1.00 mol HCl.0.55 mol H2O: Calcd: C, 55.15; H, 4.65; N, 10.15; Found: C, 55.54; H, 4.90; N, 10.12.

reactant | 5-(2-azido-ethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | 3.41 mmol, 1.34 g | N(=[N+]=[N-])CCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C19H15N5O3S
solvent | ethanol | 210 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethylamine | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCN | C19H17N3O3S
